US04747865
38.5 g of 2-(2,6-dichlorobenzyloxy)ethyl 2-(4-hydroxyphenoxy)-propionate were dissolved in 200 ml of dimethylformamide and 15.2 g of potassium carbonate were added to the solution. The mixture was stirred at 80° C. for 1 hour. A solution of 18.6 g of 2-chlorobenzothiazole in 50 ml of dimethylformamide was added dropwise at this temperature to the resulting mixture. After the addition, the mixture was stirred at the same temperature for 2 hours to complete the reaction. The reaction mixture was poured onto ice water, and the separated oily product was extracted with toluene. The toluene layer was washed successively with a 1% aqueous solution of sodium hydroxide and water, and then toluene was evaporated under reduced pressure to give 43.5 g of 2-(2,6-dichlorobenzyloxy)ethyl 2-[4-(benzothiazol-2-yloxy)phenoxy]propionate as a viscous oily product represented by the formula above.

reactant | 2-(2,6-dichlorobenzyloxy)ethyl 2-(4-hydroxyphenoxy)-propionate | 38.5 g | OC1=CC=C(OC(C(=O)OCCOCC2=C(C=CC=C2Cl)Cl)C)C=C1 | C18H18Cl2O5
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorobenzothiazole | 18.6 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(2,6-dichlorobenzyloxy)ethyl 2-[4-(benzothiazol-2-yloxy)phenoxy]propionate | 43.5 g | S1C(=NC2=C1C=CC=C2)OC2=CC=C(OC(C(=O)OCCOCC1=C(C=CC=C1Cl)Cl)C)C=C2 | C25H21Cl2NO5S
